US08377874B2
Step 2: 1-[({[(1R,2R)-2-Pent-4-en-1-ylcyclopentyl]oxy}carbonyl)oxy]pyrrolidine-2,5-dione
To a solution of (1R,2R)-2-pent-4-en-1-ylcyclopentanol (105 mg, 0.68 mmol) in MeCN (1.4 mL) was added N,N′-disuccinimidyl carbonate (174 mg, 0.68 mmol) and Et3N (0.19 mL, 1.36 mmol) and the mixture was stirred at 40 C for 20 hours. The reaction mixture was cooled, concentrated and purified by silica chromatography (gradient elution 0 to 100% EtOAc in hexane). LCMS (M+Na)+=318.1.

reactant | (1R,2R)-2-pent-4-en-1-ylcyclopentanol | 0.68 mmol, 105 mg | C(CCC=C)[C@H]1[C@@H](CCC1)O | C10H18O
reactant | N,N′-disuccinimidyl carbonate | 0.68 mmol, 174 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | Et3N | 1.36 mmol, 0.19 mL | CCN(CC)CC | C6H15N
solvent | MeCN | 1.4 mL | CC#N | C2H3N
product | 1-[({[(1R,2R)-2-Pent-4-en-1-ylcyclopentyl]oxy}carbonyl)oxy]pyrrolidine-2,5-dione | C(CCC=C)[C@H]1[C@@H](CCC1)OC(=O)ON1C(CCC1=O)=O | C15H21NO5
